US07196104B2
Preparation DH: 2-Amino-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine
A mixture of 2-bromo-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine (20 g) and Cu powder (1 g) in concentrated NH4OH (250 mL, aq) and IpOH (60 mL) was heated at 100° C. in a sealed flask for 48 h. After cooling to RT, brine (300 mL) was added and the mixture was extracted with EtOAc (3×200 mL). The combined organic layer was washed with brine (300 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The residues were filtered through silica gel pad eluting with MeOH/CH2Cl2 (5%). The filtrate was concentrated to dryness, then 50 mL of MeOH was added. After stirring for a while the solid was filtered to give the title compound. MS m/z: 270 (M+1). Calc'd for C16H19N3O-269.3

reactant | 2-bromo-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine | 20 g | BrC1=NC(=CC=C1)OC1=CC=C(C=C1)CN1CCCC1 | C16H17BrN2O
reactant | NH4OH | 250 mL | [NH4+].[OH-]
solvent | brine | 300 mL | [Cl-].[Na+].O
product | 2-Amino-6-(4-pyrrolidin-1-ylmethylphenoxy)pyridine | NC1=NC(=CC=C1)OC1=CC=C(C=C1)CN1CCCC1 | C16H19N3O
